US08278341B2
A mixture of 5,7-diBOC-2,10-difluoro-6-(2-bromoethoxy)indolo[2,3-b]carbazole (150.0 mg, 0.24 mmol), tert-butyl 4-(2-hydroxyethyl)-1,4-diazepane-1-carboxylate (97.6 mg, 0.49 mmol), a base (K2CO3 or Cs2CO3; 2-10 equiv) and potassium iodide (0.1 equivalent) in a anhydrous solvent (DMF, MeCN or DMSO; 30 mL per mmol) was heated to 80-90° C. for 1-2 hours. The reaction was cooled to room temperature and filtered. The solution was concentrated and dried under vacuum pump. The residue was purified by flash chromatography to provide the 6-(2-(1,4-diazepan-1-yl)ethoxy)-2,10-difluoro-5,7-diBOC-indolo[2,3-b]carbazole.

reactant | 5,7-diBOC-2,10-difluoro-6-(2-bromoethoxy)indolo[2,3-b]carbazole | 0.24 mmol, 150.0 mg | C(=O)(OC(C)(C)C)N1C2=CC=C(C=C2C=2C=C3C(=C(C12)OCCBr)N(C=1C=CC(=CC13)F)C(=O)OC(C)(C)C)F | C30H29BrF2N2O5
reactant | tert-butyl 4-(2-hydroxyethyl)-1,4-diazepane-1-carboxylate | 0.49 mmol, 97.6 mg | OCCN1CCN(CCC1)C(=O)OC(C)(C)C | C12H24N2O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | potassium iodide | 0.1 equivalent | [I-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | MeCN | CC#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(2-(1,4-diazepan-1-yl)ethoxy)-2,10-difluoro-5,7-diBOC-indolo[2,3-b]carbazole | N1(CCNCCC1)CCOC1=C2C(=CC=3C4=CC(=CC=C4N(C13)C(=O)OC(C)(C)C)F)C=1C=C(C=CC1N2C(=O)OC(C)(C)C)F | C35H40F2N4O5
